US04518597
6-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
A solution of 1.9 gm (0.01 mol) of 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4.1 gm (0.0125 mol) of 4-(3,4-dichlorophenyl-sulfinyl)-butylbromide (m.p.: 63°-64° C.) in 40 ml of dimethylsulfoxide is mixed with 3.5 gm (0.025 mol) of potassium carbonate, and the mixture is stirred for three hours at 40° C. After cooling, copious amounts of ice water are added, and the mixture is extracted with chloroform. The extract is washed with water and dried with sodium sulfate, and the chloroform is distilled off. The residue is recrystallized from isopropanol/diisopropylether.

reactant | 6-hydroxy-4,4-dimethyl-4H-3,1-benzoxazin-2-one | 0.01 mol, 1.9 gm | OC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C10H11NO3
reactant | 4-(3,4-dichlorophenyl-sulfinyl)-butylbromide | 0.0125 mol, 4.1 gm | ClC=1C=C(C=CC1Cl)S(=O)CCCCBr | C10H11BrCl2OS
reactant | potassium carbonate | 0.025 mol, 3.5 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 6-[4-(3,4-Dichloro-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C20H21Cl2NO4S
